Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Suicide attempt in context of ethanol intoxication
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
History was noted from Dr. ___ consult note from ___, and subsequent psychiatry CL notes
in OMR, confirmed with patient and updated as relevant:

Briefly, ___ is a ___ year old college student with
history of depression, past suicide attempts, polysubstance 
abuse
and non-suicidal self-injurious behavior who self-presented to
the ___ ___ following a suicide attempt.

On interview, patient notes that her mood and depressive 
symptoms
had been stable over the past few months and has found treatment
with Zoloft and therapy helpful. She does drink heavily on the
weekends and has history of using ___. The evening prior to
presentation the patient was inebriated and received a text from
a former significant other (with whom she had been considering
restarting a relationship) that the significant other did not
want to continue a relationship. The patient found this to be
very distressing and upon returning home took a large quantity 
of
her Zoloft medication. She was aware that this might not result
in a fatal overdose so she also took a "handful" of Ibuprofen,
drank window cleaner, and proceeded to cut her wrists with a
shard of glass. She subsequently passed out. On waking a few
hours later she was somewhat more sober, realized what she had
done, felt intense regret and began the process of coming to ___
for care. Following her overdose she felt diffuse bilateral
paresthesias which have since resolved and she currently only
reports GI distress.

The patient reports drinking alcohol heavily on the weekends
(recently 0.5L of wine per night though she previously preferred
hard liquor). She denies history of withdrawal symptoms. She
hopes to stop drinking after discharge and her friends have
agreed to help her achieve this goal though the patient
understands this will be difficult given that she is in college
and plays rubgy.
  
Psych ROS: Denies symptoms of psychosis or mania. Prior to above
suicide attempt she was not experiencing changes in mood, sleep
or appetite.
  
___ Course: The patient was calm and cooperative while in the ___
and did not require restraints.
 
Past Medical History:
Past psychiatric history: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
- Hospitalizations: None
- Current treaters and treatment:
   - Therapist: ___ (___)
   - Psychiatry CNS: ___ at ___
- Medication and ECT trials: sertraline since ___
- Self-injury: cutting from early high school, stopped in 
college
- Harm to others: denies
- Access to weapons: denies
 
Past medical history: Per Dr. ___ (___), 
confirmed
with patient and updated as relevant:
- Concussion (___) and broken finger (remote) both due to
rugby.
 
Social History:
Per Dr. ___ (___),
confirmed with patient and updated as relevant:
- Born and raised in ___. Parents separated early on in
high school, after which she had limited contact with
her father for a time. She has two older siblings, a brother and
a sister. Her family remains in ___.
- Raised religious but is loosely religious now; does not play a
role in life decisions.
- Currently, she is ___ at ___, 
majoring
in ___, with the ambition of becoming
a ___.
- In addition to the separation of her
parents, past trauma includes rape. Her first sexual experience
was non-consensual, with her boyfriend at the time. It happened
on a couch in a basement; she becomes hysterical when in similar
situations. 

Per Dr. ___ (___),
confirmed with patient and updated as relevant:
- EtOH: drinks one-half to full bottle of wine, or 4 shots of
hard liquor, on ___ and ___ (though only on ___
during Rugby season). She does not like alcohol and drinks to 
get
drunk.
- MDMA (___): used 300 mg x 1 3 weeks PTA. 
- Smokes marijuana ___ monthly
- Extensive substance abuse in high school. She drank regularly,
smoked marijuana regularly, used ___ at least every other
weekend, abused Dramamine, and regularly took pills from friends
such as a friend's ___ and unknown anti-depressants that a
friend's mother was taking.

 
Family History:
Per Dr. ___ (___),
confirmed with patient and updated as relevant:
- Father with substance abuse issues
- Sister with PTSD after a sexual assault in high school
 
Physical Exam:
Exam:
  Neurological:
     *Station and gait: normal station and gait
     *Tone and strength: moves all four extremities 
spontaneously
against gravity
      Movements: no adventitious movements noted
             

  Mental status: 
   *Appearance: Young woman, appears stated age, in no acute
distress.
    Behavior: Cooperative with interview. Makes good eye 
contact.
   *Mood and Affect: "okay" / Appears euthymic
   *Thought process: Linear, goal-oriented
   *Thought Content: Denies SI/HI/AVH
   *Judgment and Insight: Fair / Fair
   
  Cognitive:
     *Attention, *orientation, and executive function: Attentive
 to interview, oriented to context and history
     *Memory: Intact to history
     *Fund of knowledge: Appropriate
     *Speech: Regular rate, rhythm, and volume.
     *Language: Fluent ___

 
Pertinent Results:
___ 05:25AM   ___ PTT-29.2 ___
___ 05:25AM   PLT COUNT-263
___ 05:25AM   NEUTS-68.7 ___ MONOS-5.5 EOS-0.3* 
BASOS-0.6 IM ___ AbsNeut-5.37 AbsLymp-1.92 AbsMono-0.43 
AbsEos-0.02* AbsBaso-0.05
___ 05:25AM   WBC-7.8 RBC-4.26 HGB-12.9 HCT-37.4 MCV-88 
MCH-30.3 MCHC-34.5 RDW-12.8 RDWSD-40.4
___ 05:25AM   ASA-NEG ETHANOL-38* ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 05:25AM   ALBUMIN-4.9
___ 05:25AM   ALT(SGPT)-11 AST(SGOT)-22 ALK PHOS-74 TOT 
BILI-0.4
___ 05:25AM   estGFR-Using this
___ 05:25AM   GLUCOSE-100 UREA N-14 CREAT-0.8 SODIUM-142 
POTASSIUM-3.5 CHLORIDE-103 TOTAL CO2-20* ANION GAP-23*
___ 05:42AM   LACTATE-2.5*
___ 06:52AM URINE  MUCOUS-RARE
___ 06:52AM URINE  RBC-1 WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-3
___ 06:52AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 06:52AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 06:52AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 06:52AM URINE  GR HOLD-HOLD
___ 06:52AM URINE  UCG-NEG
___ 06:52AM URINE  HOURS-RANDOM
___ 06:52AM URINE  HOURS-RANDOM
___ 02:45PM   LACTATE-1.6
___ 02:45PM   COMMENTS-GREEN TOP
 
Brief Hospital Course:
Patient was admitted to ___ inpatient unit, where 
psychotherapeutic and psychopharmacological interventions were 
begun. The patient was started on lithium during her inpatient 
stay, with lithium level of 0.7 on ___, on day of discharge. 
Patient was discharged home to her mother's care with plans for 
follow up that same afternoon with outpatient therapist Dr. 
___, with whom the team communicated and advised 
with during her inpatient stay, and who assisted in finding 
outpatient psychiatric follow up with a new psychiatrist for the 
patient, one of her and her family's goals for discharge. The 
patient denied active or passive suicidal ideation throughout 
her stay. She expressed that her suicidal ideations and 
self-injurious behaviors had occurred in the context of alcohol 
intoxication, and she expressed understanding and agreement with 
the team's notion that EtOH avoidance was critical for her. She 
stated that she had not had SI in about a year outside the 
context of EtOH use, though previously had suffered from chronic 
SI, which improved with outpatient therapy. Patient was 
discharged with psychiatry and therapy follow up.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 75 mg PO DAILY 

 
Discharge Medications:
1. Lithobid (lithium carbonate) 300 mg oral TID W/MEALS 
RX *lithium carbonate 300 mg 1 capsule(s) by mouth Three times 
daily Disp #*90 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcohol use disorder
Alcohol induced mood disorder

 
Discharge Condition:
Denies suicidal or homicidal thoughts, denies auditory or visual 
hallucinations. Alert and oriented. 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

 
Followup Instructions:
___